US04556677
2-cyclopentyl-1-[p-(2,3-dihydroxypropoxy)phenyl]-1-phenyl-1-butene was prepared from pure E- or Z-isomer of 2-cyclopentyl-1-(p-hydroxyphenyl)-1-phenyl-1-butene and 3-chloro-1,2-propandiol in 2-butanone using potassium carbonate as a base (see example 16). In the case of the E-isomer the semisolid product was purified by chromatography over silica gel using methylene chloride as eluent.

reactant | 2-cyclopentyl-1-(p-hydroxyphenyl)-1-phenyl-1-butene | C1(CCCC1)C(=C(C1=CC=CC=C1)C1=CC=C(C=C1)O)CC | C21H24O
reactant | 3-chloro-1,2-propandiol | ClCC(CO)O | C3H7ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-cyclopentyl-1-[p-(2,3-dihydroxypropoxy)phenyl]-1-phenyl-1-butene | C1(CCCC1)C(=C(C1=CC=CC=C1)C1=CC=C(C=C1)OCC(CO)O)CC | C24H30O3
